US06589452B2
1. N-(p-Nitrobenzyl)-phthalimide (I)
A mixture of phthalimide (4 g), p-nitrophenylmethylchloride (4,7 g), potassium carbonate (4 g) and DMF (20 ml) was stirred at 150° C. for 1.5 h. After cooling, the mixture was diluted with water. The precipitate was filtered and the crude product (I) was recrystallized from ethanol.

reactant | phthalimide | 4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | p-nitrophenylmethylchloride | 4,7 g | [N+](=O)([O-])C1=CC=C(C=C1)CCl | C7H6ClNO2
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(p-Nitrobenzyl)-phthalimide | [N+](=O)([O-])C1=CC=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C15H10N2O4
